US06515002B2
4-(2-{[4-(4-Chlorophenoxy)phenyl]amino(1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine hydrochloride: Methyl 4-(2-{[4-(4-chlorophenoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide (300 mg, 0.52 mmol) was treated as described in Example 154, step (b) to give 129.9 mg (49% yield) of 4-(2-{[4-(4-chlorophenoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxamidine hydrochloride. 1H NMR (DMSO-d6, 300 MHz) δ 2.72 (s, 3H), 6.97 (m, 2H), 7.07 (m, 2H), 7.15 (s, 1H), 7.40 (m, 2H), 7.85 (m, 2H), 8.46 (s, 1H), 8.82 (bs, 2H), 9.27 (bs, 2H), 10.43 (bss, 1H); Mass Spectrum (ESI) m/z calcd. for C21H17ClN4OS3, 473.1 (M+H), found 473.2, 475.1.

reactant | 2-{[4-(4-Chlorophenoxy)phenyl]amino(1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine hydrochloride | Cl.ClC1=CC=C(OC2=CC=C(C=C2)NC=2SC=C(N2)C2(SC(=CC2)SC)C(=N)N)C=C1
reactant | Methyl 4-(2-{[4-(4-chlorophenoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide | 0.52 mmol, 300 mg | Br.ClC1=CC=C(OC2=CC=C(C=C2)NC=2SC=C(N2)C=2C=C(SC2C)C(=S)OC)C=C1
product | 4-(2-{[4-(4-chlorophenoxy)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxamidine hydrochloride | 129.9 mg, 49% yield | Cl.ClC1=CC=C(OC2=CC=C(C=C2)NC=2SC=C(N2)C=2C=C(SC2SC)C(=N)N)C=C1 | InChI=1S/C21H17ClN4OS3.ClH/c1-28-20-16(10-18(30-20)19(23)24)17-11-29-21(26-17)25-13-4-8-15(9-5-13)27-14-6-2-12(22)3-7-14;/h2-11H,1H3,(H3,23,24)(H,25,26);1H
